US07399780B2
3-[5-(Morpholin-4-ylmethyl)pyridin-2-yl]-5-thien-2-yl-1H-indol-2-ol hydrochloride
The title compound was prepared as described for Example 86 using 3-[5-(morpholin-4-ylmethyl)-1-oxidopyridin-2-yl]-5-thien-2-yl-1H-indol-2-ol and phosphorus trichloride. The base was dissolved in chloroform/methanol, (3:1), and a solution of HCl in diethyl ether (1 M) was added until acidic pH. The formed precipitation was filtered, washed with diethyl ether and dried. Yield: 9% of the title compound as an yellow solid: 1H NMR (DMSO-d6, 400 MHz) δ 11.10 (br s, 1 H), 10.55 (s, 1 H), 8.21 (s, 1 H), 8.02-7.90 (m, 1 H), 7.85-7.62 (m, 2 H), 7.54-7.46 (m, 1 H), 7.46-7.37 (m, 1 H), 7.18 (d, J=8 Hz, 1 H), 7.15-7.06 (m, 1 H), 6.92 (d, J=8 Hz, 1 H), 4.24 (s, 2 H), 4.03-3.89 (m, 2 H), 3.84-3.51 (m, 2 H), 3.39-3.28 (m, 2 H) 3.16-3.05 (m, 2 H); MS (ES) m/s 392 (M++1).

reactant | 3-[5-(morpholin-4-ylmethyl)-1-oxidopyridin-2-yl]-5-thien-2-yl-1H-indol-2-ol | N1(CCOCC1)CC=1C=CC(=[N+](C1)[O-])C1=C(NC2=CC=C(C=C12)C=1SC=CC1)O | C22H21N3O3S
reactant | phosphorus trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | HCl | Cl | ClH
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | diethyl ether | 1 M | C(C)OCC | C4H10O
product | 3-[5-(Morpholin-4-ylmethyl)pyridin-2-yl]-5-thien-2-yl-1H-indol-2-ol hydrochloride | Yield: 9% | Cl.N1(CCOCC1)CC=1C=CC(=NC1)C1=C(NC2=CC=C(C=C12)C=1SC=CC1)O | InChI=1S/C22H21N3O2S.ClH/c26-22-21(17-12-16(4-6-18(17)24-22)20-2-1-11-28-20)19-5-3-15(13-23-19)14-25-7-9-27-10-8-25;/h1-6,11-13,24,26H,7-10,14H2;1H
